US08563575B2
3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (100 mg) was added to a solution of 6-chloro-3-(4-hydroxyphenyl)-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (148 mg) and NaH (20.83 mg) in DMF (3 mL) at room temperature. The mixture was heated at 180° C. for 30 min under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give 6-chloro-1-(1-methylethyl)-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (120 mg) as white crystals:

reactant | 3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 100 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 6-chloro-3-(4-hydroxyphenyl)-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 148 mg | ClC=1C=C2C(=NC1)N(C(N2C(C)C)=O)C2=CC=C(C=C2)O | C15H14ClN3O2
reactant | NaH | 20.83 mg | [H-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 6-chloro-1-(1-methylethyl)-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 120 mg | ClC=1C=C2C(=NC1)N(C(N2C(C)C)=O)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C | C22H19ClN6O2
